US04496720
A mixture consisting of 2.85 g (25 mmoles) of 1-methyl-2-mercaptoimidazole, 22 mg (0.12 mmoles) of saccharin, 20 ml of toluene and 5.2 ml (25 mmoles) of hexamethyldisilazane was refluxed for 1 hour and after cooling to room temperature, 5.40 g (25 mmoles) of 4-nitrobenzyl bromide and then 5 ml of hexamethylphosphoric triamide were added to the mixture which contained 1-methyl-2-(trimethylsilylthio)-imidazole. After stirring for 2 hours at room temperature, the mixture was diluted to 150 ml with ethyl acetate and the solution thus obtained was washed three times with 50 ml of a saturated sodium bicarbonate solution and then twice with 20 ml of water. The organic layer was dried, filtered and evaporated to dryness and the crystalline residue was washed with 100 ml of petroleum ether (boiling range 60°-80° C.) and then vacuum dried to obtain 5.54 g (89% yield) of 1-methyl-2-(4-nitrobenzylthio)-imidazole melting to 74°-77° C. Crystallization of a sample from ethanol raised the melting point to 77.5°-78.0° C.

reactant | 1-methyl-2-mercaptoimidazole | 25 mmoles, 2.85 g | CN1C(=NC=C1)S | C4H6N2S
reactant | hexamethyldisilazane | 25 mmoles, 5.2 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 4-nitrobenzyl bromide | 25 mmoles, 5.40 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | 1-methyl-2-(trimethylsilylthio)-imidazole | CN1C(=NC=C1)S[Si](C)(C)C | C7H14N2SSi
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | saccharin | 0.12 mmoles, 22 mg | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
solvent | hexamethylphosphoric triamide | 5 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-methyl-2-(4-nitrobenzylthio)-imidazole | 5.54 g, 89% yield | CN1C(=NC=C1)SCC1=CC=C(C=C1)[N+](=O)[O-] | C11H11N3O2S
